US04806642
2-[(2,8-Diamino-6-hydroxy-9H-purin-9-yl)methoxy]-1,3-propanediol
A mixture of 2-[(2-amino-8-bromo-6-hydroxy-9H-purin-9-yl)methoxy]-1,3-propanediol (13.7 g; 41 mmole) and 97% hydrazine (6.07 ml) in water (300 ml) is heated to reflux for 48 hours. At the end of this time, the solution is cooled and filtered to give 9.15 g of crude solid. The crude product is suspended in water (120 ml) and Raney nickel (9 g) is added. The mixture is heated at reflux for 6 hours, filtered hot and cooled. The crystals are collected and dried to give 7.15 g of the product, mp>280° dec.

reactant | 2-[(2-amino-8-bromo-6-hydroxy-9H-purin-9-yl)methoxy]-1,3-propanediol | 41 mmole, 13.7 g | NC1=NC(=C2N=C(N(C2=N1)COC(CO)CO)Br)O | C9H12BrN5O4
reactant | hydrazine | 6.07 ml | NN | H4N2
solvent | water | 300 ml | O | H2O
solvent | water | 120 ml | O | H2O
catalyst | Raney nickel | 9 g | [Ni] | Ni
product | 2-[(2,8-Diamino-6-hydroxy-9H-purin-9-yl)methoxy]-1,3-propanediol | 7.15 g | NC1=NC(=C2N=C(N(C2=N1)COC(CO)CO)N)O | C9H14N6O4
